US07595314B2
Step 1: 4-(2-Chloro-4-trifluoromethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester
A mixture of 0.5 g (1.6 mmol) of 3-chloro-4-iodobenzotrifluoride 0.7 g (3.8 mmol), N-Boc-piperazine, 41 mg (0.04 mmol) Tris(dibenzylideneacetone)dipalladium chloroform complex, 0.44 g (4.43 mmol) sodium-t-butoxide and 48 mg (0.16 mmol) tri-o-tolylphosphine in 6 ml dioxane was heated overnight at 100° C. The solution was allowed to cool to room temperature, taken up in ether (30 ml) and washed with brine (25 ml). The organic layer was dried over Na2SO4, filtered and the solvent was removed in vacuo. The crude oil was chromatographed over on silica gel: Eluent: Heptane-AcOEt 0-10% over 15 min to provide the title compound (0.06 g, 10%) as a brown oil, MS (m/e): 365.1 (MH+, 100%).

reactant | 3-chloro-4-iodobenzotrifluoride | 1.6 mmol, 0.5 g | ClC=1C=C(C=CC1I)C(F)(F)F | C7H3ClF3I
reactant | N-Boc-piperazine | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | sodium-t-butoxide | 4.43 mmol, 0.44 g | CC(C)([O-])C.[Na+]
reactant | tri-o-tolylphosphine | 0.16 mmol, 48 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
solvent | ether | 30 ml | CCOCC | C4H10O
product | 4-(2-Chloro-4-trifluoromethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.06 g, 10% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)C(F)(F)F)Cl | C16H20ClF3N2O2
